US07557213B2
Experimental conditions analogous to those described for Step 3 of Example 1 were used with 120 mg (0.390 mmol) of 3-(4-Methoxy-3-methyl-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one, 116.8 mg (0.467 mmol) of 1-bromo-3-bromomethyl-benzene, 19 mg (0.467 mmol, 60% dispersion in oil), and 1 mL of N,N dimethylformamide. The crude product was purified by flash column chromatography using a gradient of 20-100% ethyl acetate in hexane and further purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 36.6 mg of 1-(3-Bromo-benzyl)-3-(4-methoxy-3-methyl-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one. LC-MSD, m/z for C25H21BrN2O3 [M+H]: 477.07 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.4 min.

reactant | 3-(4-Methoxy-3-methyl-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one | 0.390 mmol, 120 mg | COC1=C(C=C(C(=O)C2=CNC3=CC=C(N=C3C2=O)C)C=C1)C | C18H16N2O3
reactant | 1-bromo-3-bromomethyl-benzene | 0.467 mmol, 116.8 mg | BrC1=CC(=CC=C1)CBr | C7H6Br2
solvent | N,N dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(3-Bromo-benzyl)-3-(4-methoxy-3-methyl-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one | 36.6 mg | BrC=1C=C(CN2C=C(C(C3=NC(=CC=C23)C)=O)C(C2=CC(=C(C=C2)OC)C)=O)C=CC1 | C25H21BrN2O3
